Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4][H:5],5.93143920418
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.05078831
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.86980489678
[C:1][C:2][O:3].[C:4]([H:5])#[C:6][H:7]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6][H:7],1.49809983903
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:11]([H:12])([H:13])[H:14].[O:9][H:10],3.07368028287
[C:1]#[C:2][O:3][C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.86806202742
[C:3]1[O:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]1[O:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-5.08328515561
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9][H:10]>>[C:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][O:9][H:10].[H:4],3.98853598669
[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-3.65080556018
[C:13]([H:14])[H:15].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],-7.686273819480001
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],4.33397792004
[C:3]([H:4])=[C:5]([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-6.052972651
[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-1.70671456159
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:11].[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[O:12][H:13],4.2890608388599984
[H:8].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.15286246806
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[C:11]([H:12])([H:13])=[C:14]([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-1.31264718
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15],-2.03292654617
[C:1]#[C:2][C:3]([H:4])[O:5][C:6][O:7][H:8]>>[C:1]#[C:2][C:3][O:5][C:6][O:7][H:8].[H:4],4.5320799808
[C:5]([H:6])#[C:7][O:8][H:9].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9],0.4339943525399999
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13].[O:1],8.12609071712
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:11]([H:12])[H:13],4.86467534745
[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],1.5299437140099998
[H:1][C:2]=[C:3]([H:4])[C:5]1[C:6]2[O:7][C@:8]12[H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][C:8][H:9],1.16107616985
[H:1][C:2][O:3][C:4]#[C:5][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-3.10411879873
[C:1]#[C:2][C:3]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[C:1]#[C:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.02132823005
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],0.22162005513
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-3.84966327765
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[H:13],-6.631090381059999
